US07544812B2
A 0° C. solution of 5-(4-hydroxy-benzyl)-2,2-dimethyl-[1,3]dioxolan-4-one (0.20 g, 0.900 mmol) and triethylsilane (1.05 g, 9.0 mmol) in dry CH2Cl2 (10 mL) was treated dropwise with a 1 molar solution of TiCl4 in CH2Cl2 (0.90 mL, 0.900 mmol) under N2. The resultant red slurry was stirred at 0° C. for 15 minutes and then warmed to room temperature for 45 minutes. The reaction mixture was quenched with water and extracted with EtOAc. The organic layer was dried (Na2SO4) and the solvent removed in vacuo to afford 0.320 g of crude acid that was carried on as is. The oil was dissolved in EtOH (25 mL) and treated with conc. H2SO4 (1 mL) and then stirred at room temperature for 17 h under N2. The solvent was removed in vacuo and the oil extracted with EtOAc and water. The organic layer was dried (Na2SO4) and the solvent removed in vacuo to afford crude product that was purified by flash chromatography using 5:1 hexanes:acetone to give 0.158 g (70%) 3-(4-hydroxy-phenyl)-2-isopropoxy-propionic acid ethyl ester. Rf=0.48 (1:1 hexanes:acetone). 1H NMR (500 MHz, CDCl3) δ 7.10 (d, 2H, J=8.80 Hz), 6.73 (d, 2H, J=8.31 Hz), 4.79 (bs, 1H) 4.20-4.12 (m, 2H), 3.99 (dd, 1H, J=8.31 Hz, J=4.89 Hz), 3.49 (hp, 1H, J=5.87 Hz), 2.95-2.83 (m, 2H), 1.23 (t, 3H, J=6.85 Hz), 1.14 (d, 3H, J=6.36 Hz), 0.97 (d, 3H, J=6.36 Hz); MS (ES−) Calc'd for C14H19O4 (M−1) 251. Found m/z 251 (100%). 97.6% ee by chiral HPLC assay (Chiralcel OJ, 4.6×250 mm, 90/10 heptane/IPA eluent, 1 mL/min, 266 nm).

reactant | 5-(4-hydroxy-benzyl)-2,2-dimethyl-[1,3]dioxolan-4-one | 0.900 mmol, 0.20 g | OC1=CC=C(CC2C(OC(O2)(C)C)=O)C=C1 | C12H14O4
reactant | triethylsilane | 9.0 mmol, 1.05 g | C(C)[SiH](CC)CC | C6H16Si
reactant | H2SO4 | 1 mL | OS(=O)(=O)O | H2O4S
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | EtOH | 25 mL | CCO | C2H6O
catalyst | TiCl4 | Cl[Ti](Cl)(Cl)Cl
solvent | CH2Cl2 | 0.900 mmol, 0.90 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-hydroxy-phenyl)-2-isopropoxy-propionic acid ethyl ester | 0.158 g, 70% | C(C)OC(C(CC1=CC=C(C=C1)O)OC(C)C)=O | C14H20O4
